US08476441B2
A schematic of the catalytic enantioselective thiolysis of 3-isobutylglutaric anhydride using cyclohexane thiol to afford (R)-3-cyclohexylsulfanylcarbonylmethyl-5-methyl-hexanoic acid is provided in FIG. 1. Thiolysis of 3-isobutylglutaric anhydride in methyltertbutylether (MTBE), at room temperature (rt) in the presence of catalytic quantities of C1 affords 3-cyclohexylsulfanylcarbonylmethyl-5-methyl-hexanoic acid in quantitative yield with the (R) enantiomer obtained in 93% ee.

reactant | 3-isobutylglutaric anhydride | C(C(C)C)C1CC(=O)OC(C1)=O | C9H14O3
reactant | cyclohexane thiol | C1(CCCCC1)S | C6H12S
product | (R)-3-cyclohexylsulfanylcarbonylmethyl-5-methyl-hexanoic acid | C1(CCCCC1)SC(=O)C[C@@H](CC(=O)O)CC(C)C | C15H26O3S
